US03962274
To a solution of 6 parts of 1-(2-azidoethyl)-5-nitroimidazole in 20 parts of 2-propanol is added 7 parts of a .20% solution of hydrogen chloride in 2-propanol. The resultant precipitate is recrystallized from a mixture of 2-propanol and methanol to give 1-(2-azidoethyl)-5-nitroimidazole hydrochloride which, washed with 2-propanol and dried in air, sinters at 155° and melts in the range 167°-173° with decomposition.

reactant | 1-(2-azidoethyl)-5-nitroimidazole | N(=[N+]=[N-])CCN1C=NC=C1[N+](=O)[O-] | C5H6N6O2
reactant | hydrogen chloride | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | 1-(2-azidoethyl)-5-nitroimidazole hydrochloride | Cl.N(=[N+]=[N-])CCN1C=NC=C1[N+](=O)[O-] | InChI=1S/C5H6N6O2.ClH/c6-9-8-1-2-10-4-7-3-5(10)11(12)13;/h3-4H,1-2H2;1H
